US04232016
1.2 g. of acetyl nitrate are added dropwise, at 10° to a stirred solution of 2.67 g. of 1-methyl-3-fluoro-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one in 70 ml. of CCl4 and 20 ml. of acetonitrile. The mixture is stirred for 1 hour more at 10° and for 3 hours at 20° and is poured into ice cold sodium carbonate solution and worked up in the customary manner to give 1-methyl-3-fluoro-5-phenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazapin-2-one.

reactant | acetyl nitrate | [N+](=O)(OC(C)=O)[O-] | C2H3NO4
reactant | 1-methyl-3-fluoro-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)F)=O | C16H13FN2O
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-methyl-3-fluoro-5-phenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazapin-2-one | CN1C(C(N=C(C2=C1C=CC(=C2)[N+](=O)[O-])C2=CC=CC=C2)F)=O | C16H12FN3O3
